US06486167B1
2,3-Dimethoxy-9-benzyloxybenzo[i]phenanthridine (30)
2-( 4-Benzyloxy-6-nitrophenyl)-6,7-dimethoxy-1-naphthaldehyde (100 mg, 0.23 mmol) was dissolved in glacial acetic acid (15 mL) and heated to reflux with zinc dust (163 mg, 2.5 mmol) for 3.5 h. Acetic acid was evaporated in vacuo and the residue was dissolved in chloroform. The solution was filtered through a celite bed and the filtrate was washed successively with saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo. The residue was chromatographed over 50 g of silica gel using 1:2 mixture respectively of hexanes and ethyl acetate to give the title compound as a white solid in 56% yield; 1H NMR(CDCl3) δ4.08(3H, s), 4.18(3H, s), 5.29(2H, s), 7.33(1H, s), 7.42(5H, m), 7.52(1H, d, J=8.9), 7.72(1H, d, J=2.6), 8.02(1H, d, J=8.9), 8.17(1H, s), 8.39(1H, d, J=8.9), 8.52(1H, d, J=8.9), 10.04(1H, s); 13C NMR(CDCl3) δ56.5, 56.6,70.8, 102.3, 108.6, 110.9, 112.8, 118.4, 119.6, 120.7, 124.2, 125.8, 127.7, 128.2, 128.6, 129.2, 131.4, 131.7, 137.1, 146.8, 148.6, 150.1, 151.2, 159.5; HRMS calcd for C26H24N3: 395.1521 , found: 395.1522.

reactant | 2-( 4-Benzyloxy-6-nitrophenyl)-6,7-dimethoxy-1-naphthaldehyde | 0.23 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=C1)[N+](=O)[O-])C1=C(C2=CC(=C(C=C2C=C1)OC)OC)C=O | C26H21NO6
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.5 mmol, 163 mg | [Zn] | Zn
product | 2,3-Dimethoxy-9-benzyloxybenzo[i]phenanthridine | 56% yield | COC1=CC2=C(C=3C=NC=4C=CC(=CC4C3C=C2)OCC2=CC=CC=C2)C=C1OC | C26H21NO3
